US07732444B2
Intermediate 81: 2-Fluoro-1-methoxy-4-(2-nitro-vinyl)-benzene:
3-Fluoro-4-methoxy-benzaldehyde (10 g) was dissolved in 100 mL of nitromethane along with 5 g of ammonium acetate. The mixture was refluxed for 2 hours. The nitromethane was removed by rotary evaporation and the residue recrystallized from ethanol to give 7.6 g of the expected product. LC-MS showed the product had the expected M+H+ of 198.

reactant | 3-Fluoro-4-methoxy-benzaldehyde | 10 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | ammonium acetate | 5 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 100 mL | [N+](=O)([O-])C | CH3NO2
product | 2-Fluoro-1-methoxy-4-(2-nitro-vinyl)-benzene | 7.6 g | FC1=C(C=CC(=C1)C=C[N+](=O)[O-])OC | C9H8FNO3
